US09326987B2
6-Bromo-4-(5-{[(3R,5S)-3,5-dimethyl-4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole
6-Bromo-4-[5-(bromomethyl)-1,3,4-oxadiazol-2-yl]-1-(phenylsulfonyl)-1H-indazole (200 mg, 0.441 mmol) in acetonitrile (2 ml) was treated with (2R,6S)-2,6-dimethyl-1-(1-methylethyl)piperazine (138 mg, 0.883 mmol, see J. Med. Chem., 1999, 42, 1123-1144 for literature preparation), DIPEA (0.154 ml, 0.8825 mmol) and sodium iodide (66 mg, 0.44 mmol). The reaction mixture was heated at 70° C. for 5 h. The reaction mixture was then cooled, diluted with DCM and washed with an aqueous 2M HCl solution (5 ml). The organic layer was separated using a hydrophobic frit, washed with water and the solvent removed under a stream of nitrogen to give the title compound as a brown oil.

reactant | 6-Bromo-4-[5-(bromomethyl)-1,3,4-oxadiazol-2-yl]-1-(phenylsulfonyl)-1H-indazole | 0.441 mmol, 200 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CBr | C16H10Br2N4O3S
reactant | (2R,6S)-2,6-dimethyl-1-(1-methylethyl)piperazine | 0.883 mmol, 138 mg | C[C@H]1N([C@H](CNC1)C)C(C)C | C9H20N2
reactant | DIPEA | 0.8825 mmol, 0.154 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium iodide | 0.44 mmol, 66 mg | [I-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-Bromo-4-(5-{[(3R,5S)-3,5-dimethyl-4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1C[C@H](N([C@H](C1)C)C(C)C)C | C25H29BrN6O3S
